US04931083
3-(1-ethoxycarbonylethoxy)-5-methyl-1-phenyl-1,2,4-1H-triazole
A 3.2 g portion of sodium was dissolved in 50 ml of methanol, and the solution was added to 100 ml of dimethylsulfoxide. To it was added 24.6 g of 3-hydroxy-5-methyl-1-phenyl-1,2,4-1H-triazole, and the solution was heated on the steam bath for 2 hours, adding 100 ml of additional dimethylsulfoxide. To the solution was then added 25.4 g of ethyl 2-bromopropionate, and heating was continued for 2 hours more. The reaction mixture was then cooled, poured over ice-water, and extracted with 300 ml of chloroform. The extract was washed with water and with saturated brine, and was dried with sodium sulfate and phase separation paper. The solvent was removed under vacuum, and the product was distilled at 1.2 mm of mercury and 192° to obtain 20 g of the desired product, an oil.

reactant | sodium | [Na] | Na
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | 3-hydroxy-5-methyl-1-phenyl-1,2,4-1H-triazole | 24.6 g | OC1=NN(C(=N1)C)C1=CC=CC=C1 | C9H9N3O
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | ethyl 2-bromopropionate | 25.4 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | methanol | 50 ml | CO | CH4O
product | 3-(1-ethoxycarbonylethoxy)-5-methyl-1-phenyl-1,2,4-1H-triazole | 20 g | C(C)OC(=O)C(C)OC1=NN(C(=N1)C)C1=CC=CC=C1 | C14H17N3O3
